US06878722B2
To a solution of m-anisidine (300 g, 2.44 mole) and ethyl benzoylacetate (234.2 g, 1.22 mole) in toluene (2.0 L) was added HCl (4.0 N in dioxane, 12.2 mL, 48.8 mmole). The resulting solution was refluxed for 6.5 hr using a Dean-Stark apparatus (about 56 ml of aqueous solution was collected). The mixture was cooled to rt, partitioned multiple times with aqueous HCl (10%, 3×500 mL), aqueous NaOH (1.0 N, 2×200 mL), water (3×200 mL), and the organic layer dried (MgSO4) and concentrated in vacuo to supply an oily residue (329.5 g). The crude product was heated in an oil bath (280° C.) for 80 min using a Dean-Stark apparatus (about 85 mL liquid was collected). The reaction mixture was cooled down to rt, the solid residue triturated with CH2Cl2 (400 mL), the resulting suspension filtered, and the filter cake washed with more CH2Cl2 (2×150 mL). The resulting solid was dried in vacuo (50° C.; 1 torr; 1 day) affording analytically pure 4-hydroxy-7-methoxy-2-phenylquinoline as a light brown solid (60.7 g, 20% overall). 1H NMR δ(DMSO): 3.86 (s, 3H), 6.26 (s, 1H), 6.94 (dd, J=9.0, 2.4 Hz, 1H), 7.21 (d, J=2.4 Hz, 1H), 7.55-7.62 (m, 3H), 7.80-7.84 (m, 2H), 8.00 (d, J=9.0 Hz, 1H), 11.54 (s, 1H); 13C NMR (DMSO-d6) δ: 55.38, 99.69, 107.07, 113.18, 119.22, 126.52, 127.17, 128.97, 130.34, 134.17, 142.27, 149.53, 161.92, 176.48. LC-MS (retention time: 1.26, method D), MS m/z 252 (M++1).

reactant | m-anisidine | 2.44 mole, 300 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | ethyl benzoylacetate | 1.22 mole, 234.2 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | HCl | 48.8 mmole, 4.0 N, 12.2 mL | Cl | ClH
solvent | toluene | 2.0 L | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-7-methoxy-2-phenylquinoline | OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1 | C16H13NO2
